US04994485
Preparation of 2-ethylthio-3-cyano-4-methyl-5-acetylthiophene.
To a suspension of 10.5 g of sodium salt of cyanoacetone in 200 ml of dimethylformamide 9.0 ml of carbon disulphide are gradually added while stirring cooling in ice and keeping under nitrogen, succeeded by 4.5 g of sodium hydride dispersion. After stirring for an hour with cooling, 8.4 ml of chloroacetone are added dropwise under the same reaction conditions. After stirring for another hour, 0.4 g of powdered NaOH are added and finally, after again stirring for another 0.5 hour, 8.0 ml of ethyl iodide under the same conditions. After stirring, the reaction mixture for again another hour and leaving to stand overnight it is poured 1 l of ice water and extracted with diethyl ether. The organic phase is washed with water three times, dried, treated with charcoal, filtered and evaporated. After recrystallisation from isopropanol, the residue yields the desired product in a yield of 9.54 g; melting-point 51°-52° C.

reactant | sodium | 10.5 g | [Na] | Na
reactant | cyanoacetone | C(#N)CC(C)=O | C4H5NO
reactant | sodium hydride | 4.5 g | [H-].[Na+]
reactant | chloroacetone | 8.4 ml | ClCC(C)=O | C3H5ClO
reactant | NaOH | 0.4 g | [OH-].[Na+]
reactant | ethyl iodide | 8.0 ml | C(C)I | C2H5I
reactant | carbon disulphide | C(=S)=S | CS2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-ethylthio-3-cyano-4-methyl-5-acetylthiophene | C(C)SC=1SC(=C(C1C#N)C)C(C)=O | C10H11NOS2
